US04218370
E. Preparation of 4-t-Butylazo-4-methoxypentanol
To a 250 ml 3-neck round bottom flask equipped with a magnetic stirrer, thermometer, condenser and addition funnel was added 13.2 grams (0.2 mole) of 85% potassium hydroxide pellets and 130 mls of methanol. The mixture was stirred at approximately 30° C. until the pellets dissolved. The resulting solution was cooled at 10° C. and with rapid stirring 24.9 grams (0.1 mole) of 4-t-butylazo-4-chloropentyl acetate were added over 20 minutes while holding the temperature at 10°-15° C. After the addition was complete, the mixture was stirred for 3 hours at room temperature, poured into 300 mls of water and the organic layer taken up in 100 mls of methylene chloride. The aqueous layer was separated and discarded and the methylene chloride was washed with water, 10% HC1, water and saturated sodium bicarbonate solution. The methylene chloride solution was dried over anhydrous sodium sulfate, filtered and the methylene chloride stripped off on a rotary evaporator under reduced pressure. The resulting light orange liquid weighed 12.5 grams (62% crude yield). The infrared spectrum of the product contained a very broad strong OH band centered at 3400 cm-1 and no carbonyl band. There was a strong carbon-oxygen band at 1180-1220 cm-1.

reactant | potassium hydroxide | 0.2 mole, 13.2 grams | [OH-].[K+]
reactant | methanol | 130 mls | CO | CH4O
reactant | 4-t-butylazo-4-chloropentyl acetate | 0.1 mole, 24.9 grams | C(C)(=O)OCCCC(C)(Cl)N=NC(C)(C)C | C11H21ClN2O2
reactant | water | 300 mls | O | H2O
solvent | methylene chloride | 100 mls | C(Cl)Cl | CH2Cl2
product | 4-t-Butylazo-4-methoxypentanol | C(C)(C)(C)N=NC(CCCO)(C)OC | C10H22N2O2
